US07977344B2
8-Bromo-2-[(2-methylbutyl)oxy]-9-(tetrahydro-2H-Pyran-2-yl)-9H-Purin-6-amine
A solution of 2-[(2-methylbutyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (245 mg) in dry chloroform (2.9 mL) was cooled to 0° C. and NBS (150 mg) was added to give a green/brown solution. The reaction mixture was stirred at room temperature for 6 h. The mixture was taken up into DCM (20 mL) and was washed with water (20 mL). The organics were separated, dried by passing through a hydrophobic frit and concentrated in vacuo to give the title compound as green solid (292 mg).

reactant | 2-[(2-methylbutyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 245 mg | CC(COC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N)CC | C15H23N5O2
reactant | NBS | 150 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | 2.9 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-2-[(2-methylbutyl)oxy]-9-(tetrahydro-2H-Pyran-2-yl)-9H-Purin-6-amine | 292 mg | BrC=1N(C2=NC(=NC(=C2N1)N)OCC(CC)C)C1OCCCC1 | C15H22BrN5O2
